US04138488
A. N-Diphenylmethyl-2-pyridone
Combine 92.1 g (0.5 mole) of benzhydrol with 142.7 g. (1.5 mole) of 2-hydroxypyridine and heat to 190° C. with stirring. Add 1.5 ml. of concentrated sulfuric acid and follow the procedure of Example III, step A to obtain thereby the product of this step yield 68 g., m.p. 142°-145° C.

reactant | benzhydrol | 0.5 mole, 92.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | 2-hydroxypyridine | 1.5 mole | OC1=NC=CC=C1 | C5H5NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | N-Diphenylmethyl-2-pyridone | C1(=CC=CC=C1)C(N1C(C=CC=C1)=O)C1=CC=CC=C1 | C18H15NO
